US04797401
(A) 1-(4-Nitrophenyl)-4-(4-nitrophenethyl)piperazine
1-(4-Nitrophenyl)piperazine (4.14 g), 4-nitrophenethyl bromide (4.6 g) and sodium bicarbonate (3.4 g) in acetonitrile (75 ml) were stirred under reflux for 1 day, and then evaporated to dryness. The residue was then triturated with water (300 ml), filtered, washed with water (300 ml), and the resulting solid was crystallized from ethyl acetate, yielding the title compound, (3.62 g), m.p. 143°-5°.

reactant | 1-(4-Nitrophenyl)piperazine | 4.14 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 4-nitrophenethyl bromide | 4.6 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | sodium bicarbonate | 3.4 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 1-(4-Nitrophenyl)-4-(4-nitrophenethyl)piperazine | 3.62 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N4O4
